US06589970B2
Oxalyl chloride (5.89 mL, 66.1 mmol) was added under nitrogen to a solution of 2-butyl-1-methyl-1H-indole-3-carboxylic acid (3.06 g, 13.2 mmol), prepared in the previous step, in 100 mL of methylene chloride at room temperature. There was an immediate evolution of gas. After the addition the reaction was stirred at room temperature for 2 h. The solvent was removed under reduced pressure. To remove excess oxalyl chloride the residue was dissolved in benzene and the solvent removed under reduced pressure to give 2-butyl-1-methyl-1H-indole-3-carbonyl chloride as a brown oil. The material was immediately used without additional purification.

reactant | Oxalyl chloride | 66.1 mmol, 5.89 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-butyl-1-methyl-1H-indole-3-carboxylic acid | 13.2 mmol, 3.06 g | C(CCC)C=1N(C2=CC=CC=C2C1C(=O)O)C | C14H17NO2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-butyl-1-methyl-1H-indole-3-carbonyl chloride | C(CCC)C=1N(C2=CC=CC=C2C1C(=O)Cl)C | C14H16ClNO
